US05071844
(S)-5,11-Dihydro-5-[1-(4-hydroxyphenethyl)-2-pyrrolidinylmethyl]dibenzo[b,e][1,4]thiazepine-10,10-dioxide
This was obtained by reacting (S)-5,11-dihydro-5-(2-pyrrolidinylmethyl)dibenzo[b,e][1,4]thiazepine-10,10-dioxide (see Preparation 20) and 4-hydroxyphenethyl bromide by a similar method to that described in Example 28. The title compound was obtained as a colourless oil, (60 mg, 29%).

reactant | (S)-5,11-dihydro-5-(2-pyrrolidinylmethyl)dibenzo[b,e][1,4]thiazepine-10,10-dioxide | N1[C@@H](CCC1)CN1C2=C(S(CC3=C1C=CC=C3)(=O)=O)C=CC=C2 | C18H20N2O2S
reactant | 4-hydroxyphenethyl bromide | OC1=CC=C(CCBr)C=C1 | C8H9BrO
product | (S)-5,11-Dihydro-5-[1-(4-hydroxyphenethyl)-2-pyrrolidinylmethyl]dibenzo[b,e][1,4]thiazepine-10,10-dioxide | OC1=CC=C(CCN2[C@@H](CCC2)CN2C3=C(S(CC4=C2C=CC=C4)(=O)=O)C=CC=C3)C=C1 | C26H28N2O3S
